US08629271B2
a) 1-Benzyl-4-((2-methylallylamino)methyl)piperidin-4-ol
A mixture of 6-benzyl-1-oxa-6-azaspiro[2.5]octane (2 g) and 2-methylprop-2-en-1-amine HCl (2 g) and Hunig's Base (3.44 mL) in ethanol (30 mL) was heated at 70° C. for 18 hours. The mixture was cooled to room temperature and the solvent evaporated under reduced pressure. The residue was partitioned between DCM and brine, the aqueous layer was re-extracted with fresh DCM and the combined organics dried over sodium sulphate, filtered and the solvent evaporated under reduced pressure to afford the subtitled compound. Yield 2.70 g.

reactant | 6-benzyl-1-oxa-6-azaspiro[2.5]octane | 2 g | C(C1=CC=CC=C1)N1CCC2(CO2)CC1 | C13H17NO
reactant | 2-methylprop-2-en-1-amine HCl | 2 g | Cl.CC(CN)=C
reactant | Hunig's Base | 3.44 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 1-Benzyl-4-((2-methylallylamino)methyl)piperidin-4-ol | C(C1=CC=CC=C1)N1CCC(CC1)(O)CNCC(=C)C | C17H26N2O
